US08486940B2
1-(1H-benzo[d]imidazol-5-yl)-5-(3-phenylphenyl)imidazolidin-2-one
The compound was synthesized starting from 5-aminobenzimidazole (526 mg, 3.95 mmol), biphenyl-3-carbaldehyde (600 mg, 3.29 mmol), TMSCN (654 mg, 6.59 mmol), 10% PdC (100 mg), TEA (1.5 mL, 11 mmol), di-(imidazol-1-yl)methanone (475 mg, 1.03 mmol) as described in method 2.

reactant | 5-aminobenzimidazole | 3.95 mmol, 526 mg | NC1=CC2=C(N=CN2)C=C1 | C7H7N3
reactant | biphenyl-3-carbaldehyde | 3.29 mmol, 600 mg | C1(=CC(=CC=C1)C=O)C1=CC=CC=C1 | C13H10O
reactant | TMSCN | 6.59 mmol, 654 mg | [Si](C)(C)(C)C#N | C4H9NSi
reactant | di-(imidazol-1-yl)methanone | 1.03 mmol, 475 mg | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
product | 1-(1H-benzo[d]imidazol-5-yl)-5-(3-phenylphenyl)imidazolidin-2-one | N1C=NC2=C1C=CC(=C2)N2C(NCC2C2=CC(=CC=C2)C2=CC=CC=C2)=O | C22H18N4O
